datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CCC[C:11](=[CH2:10])CC1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH2:10][C+:11]3CCCCCC3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
"C1CC2CC1[CH:10]=[CH:11]2.C[C:20]1=[CH:21][C:22](=[O:23])CCC1>>C[C:20]1([CH:10]2C3CCC(C3)[CH+:11]2)CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CCC[C:11]1=[CH:12][CH+:13]CC1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>CC(C)(C1=C(I)C=CC=C1)[O-:21].C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
CC1=CC=C([S:71]([CH-:10][N+:61]#[C-:62])(=[O:72])=[O:82])C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC=C([S:71]([CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[N+:61]#[C-:62])(=[O:72])=[O:82])C=C1 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12] 10,11=10,20;12=11,12"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.C1C[C:11](=[CH2:10])C1>>C1=CC=C([C:23]2=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32][C:21]([CH:20]([CH2:10][C+:11]3CCC3)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[CH:22]2)C=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>C[C:81]([CH:10]([CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20
F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[N-:10]1[C:61](=[O:62])[CH:71]=[CH:72][C:71]1=[O:72]>>F[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61](=[O:62])[CH:71]=[CH:72][C:71]2=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1.[S-:10][C:61]#[N:62]>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([S:10][C:61]#[N:62])[C:34]([N+](=O)[O-])=[CH:33]1 10=20;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCCC1.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:20](C)([CH2:10][C+:11]1CCCCCCCCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)=[O:63] 10=20;20,21=21,22;22,23=23"
"Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl.FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S-:10])=[CH:62]1>>FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S:10][C:20]2([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]2Cl)=[CH:62]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1.CC[CH+:11][CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
